US04367332
To a solution of 4.0 g of arabinofuranosylcytosine dissolved in 50 ml of dimethylacetamide, there are added 3.0 g of pyridine and 4.06 g of n-hexylchloroformate. The reaction is carried out by stirring the mixture at room temperature for 3 hours. After the reaction is over, dimethylacetamide is evaporated under reduced pressure. The residue is diluted with 100 ml of cold water and the mixture is stirred under ice-cooling for one hour. The precipitated solids are filtrated and dried. The resultant white powders are washed with ethyl ether to obtain 2.9 g of N4 -hexyloxycarbonyl-1-β-D-arabinofuranosylcytosine (Yield:47%).

reactant | arabinofuranosylcytosine | 4.0 g | C1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | pyridine | 3.0 g | N1=CC=CC=C1 | C5H5N
reactant | n-hexylchloroformate | 4.06 g | C(CCCCC)OC(=O)Cl | C7H13ClO2
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | N4 -hexyloxycarbonyl-1-β-D-arabinofuranosylcytosine | 2.9 g, Yield:47% | C(CCCCC)OC(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C16H25N3O7
